US06413657B1
A mixture of 8.7 g (45 mmol) of 5H-dibenz[b,f]azepine, 12.4 g (50 mmol) of p-iodophenethyl alcohol, 2.8 g (50 mmol) of potassium hydroxide, 4.8 g (75 mmol) of copper powder, and 20 ml of decalin was heated at an external temperature of 200° C. while stirring in a nitrogen stream for 40 hours. The reaction mixture was cooled nearly to room temperature, chloroform was added thereto, followed by filtration using Celite to remove any insoluble matter. The filtrate was concentrated. To remove decalin, n-hexane was added to the residue, followed by filtration. The filter cake was reprecipitated in methanol, and the resulting crude product was purified by silica gel column chromatography to give 4.2 g (30%) of 5-(4-(2-hydroxyethyl)phenyl)-5H-dibenz[b,f]azepine.

reactant | 5H-dibenz[b,f]azepine | 45 mmol, 8.7 g | C1=CC=CC=2NC3=C(C=CC21)C=CC=C3 | C14H11N
reactant | p-iodophenethyl alcohol | 50 mmol, 12.4 g | IC1=CC=C(CCO)C=C1 | C8H9IO
reactant | potassium hydroxide | 50 mmol, 2.8 g | [OH-].[K+]
reactant | decalin | 20 ml | C1CCCC2CCCCC12 | C10H18
catalyst | copper | 75 mmol, 4.8 g | [Cu] | Cu
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 5-(4-(2-hydroxyethyl)phenyl)-5H-dibenz[b,f]azepine | 4.2 g, 30% | OCCC1=CC=C(C=C1)N1C2=C(C=CC3=C1C=CC=C3)C=CC=C2 | C22H19NO
